US05646173
A solution of 29.5 g of 1-indanone, 73.5 ml 3-buten-2-ol, 77.0 ml of 2,2-dimethoxypropane and 400 mg of p-toluenesulfonic acid in 400 ml of toluene was boiled under reflux for 24 hours. After cooling, the solution was washed with 100 ml of saturated sodium hydrogen carbonate solution. The aqueous washing was extracted with 150 ml of ethyl acetate and the organic phases were combined, dried with magnesium sulfate and evaporated in a vacuum. Purification on silica gel (hexane/diethyl ether 7:1) yielded 19.8 g (48%) of (RS)-2-(2-buten-1-yl)-1-indanone as a pale yellow oil.

reactant | 1-indanone | 29.5 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | 3-buten-2-ol | 73.5 ml | CC(C=C)O | C4H8O
reactant | 2,2-dimethoxypropane | 77.0 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 400 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(2-buten-1-yl)-1-indanone | 19.8 g, 48% | C(C=CC)C1C(C2=CC=CC=C2C1)=O | C13H14O
